US08541432B2
116-B. Diethyl-carbamic acid 1-(tert-butyl-dimethyl-silanyl)-1H-indol-5-yl ester
Diethyl-carbamic acid 1H-indol-5-yl ester (5.72 g, 24.6 mmol) is dissolved in THF (200 mL) and cooled to 0° C. The flask is purged with nitrogen and then 60% NaH (1.1 g, 27.5 mmol) is added and the mixture stirred in aen ice bath for 30 minutes. At that point TBDMSCl (0.210 g, 1.39 mmol) is added and the reaction is allowed to stir overnight (14 hours). The reaction is quenched with a saturated solution of ammonium chloride and the mixture is diluted with ethyl acetate and water. The organic layer is removed, dried (sodium sulfate) and concentrated to obtain the title compound as an oil that is used without further purification. MS (ESI) m/z 347.21 (M+1).

reactant | Diethyl-carbamic acid 1H-indol-5-yl ester | 24.6 mmol, 5.72 g | N1C=CC2=CC(=CC=C12)OC(N(CC)CC)=O | C13H16N2O2
reactant | NaH | 27.5 mmol, 1.1 g | [H-].[Na+]
reactant | TBDMSCl | 1.39 mmol, 0.210 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Diethyl-carbamic acid 1-(tert-butyl-dimethyl-silanyl)-1H-indol-5-yl ester | C(C)(C)(C)[Si](N1C=CC2=CC(=CC=C12)OC(N(CC)CC)=O)(C)C | C19H30N2O2Si
